US05491132
N-t-Butoxycarbonyl-N'-thiomorpholinocarbonyl-N,N'-dimethylethylenediamine (4.92 g) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (60 ml) under ice-bath cooling. After being stirred at ambient temperature for 30 minutes, the solution was concentrated in vacuo to give N-thiomorpholinocarbonyl-N,N'-dimethylethylenediamine hydrochloride (3.93 g) as an oil. Rf: 0.25 (chloroform:methanol:acetic acid, 8:1:1, V/V)

reactant | N-t-Butoxycarbonyl-N'-thiomorpholinocarbonyl-N,N'-dimethylethylenediamine | 4.92 g | C(C)(C)(C)OC(=O)N(CCN(C)C(=O)N1CCSCC1)C | C14H27N3O3S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | N-thiomorpholinocarbonyl-N,N'-dimethylethylenediamine hydrochloride | 3.93 g | Cl.S1CCN(CC1)C(=O)N(CCNC)C | InChI=1S/C9H19N3OS.ClH/c1-10-3-4-11(2)9(13)12-5-7-14-8-6-12;/h10H,3-8H2,1-2H3;1H
